US05076830
Preparation of 5-chloro-2-[2-(6-chloro-2-pyridyl)propen-3-yl]-2-methylindan 1,3-dion
In 20 ml of methanol was dissolved 1.32 g of 85% potassium hydroxide, and then 3.89 g of 5-chloro-2-methylindan-1,3-dione, 3.76 g of 6-chloro-2-(1-chloromethylvinyl)pyridine and 0.05 g of potassium iodide were added to the solution. After refluxing under heating for 3 hours, the solvent was evaporated and water was poured. The reaction mixture was extracted with ethyl acetate, the organic layer was washed with water and with a saturated saline solution, and then dried over anhydrous magnesium sulfate. After the solvent was evaporated, the residue was separated and purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate=5/1) to obtain 6.02 g of the compound No. 115 shown in Table 1.

reactant | potassium hydroxide | 1.32 g | [OH-].[K+]
reactant | 5-chloro-2-methylindan-1,3-dione | 3.89 g | ClC=1C=C2C(C(C(C2=CC1)=O)C)=O | C10H7ClO2
reactant | 6-chloro-2-(1-chloromethylvinyl)pyridine | 3.76 g | ClC1=CC=CC(=N1)C(=C)CCl | C8H7Cl2N
solvent | methanol | 20 ml | CO | CH4O
catalyst | potassium iodide | 0.05 g | [I-].[K+]
product | 5-chloro-2-[2-(6-chloro-2-pyridyl)propen-3-yl]-2-methylindan 1,3-dion | 6.02 g | ClC=1C=C2C(C(C(C2=CC1)=O)(C)CC(=C)C1=NC(=CC=C1)Cl)=O | C18H13Cl2NO2
